Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:3].[O:1]=[C:2]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],2.42326447061
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15],1.49845859151
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[H:4].[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.8205646939210001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:3][H:4].[H:1][C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],8.601741858330001
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])=[C:11]([H:12])[H:13],5.1003640639
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:2](=[C:3](\[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1],4.76193547005
[C:4](\[H:5])(=[C:6]\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6][O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.8773305263
[O:1][C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[C:2]#[C:3][C:4](=[O:5])[C:6]([H:7])([H:8])[H:9].[O:1],7.28942964753
[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-1.82200176773
[H:5].[O:1]=[C:2]=[C:3][C:4]([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.62863889835
[H:1][C:2]#[C:3][C:4]([O:5][H:6])=[O:7].[H:8]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8],-1.17760460514
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10]>>[C:2]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:5]([H:3])[H:4],5.71803687157
[H:1][C:2][O:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],3.64195950847
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],4.40065495902
[H:1][C:2]([O:3][C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.0149011235300005
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],1.90814702637
[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-4.37546710746
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]=[C:10]([H:11])[H:12].[H:9]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.85847520911
[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.5937754853699992
[C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.66751103773
[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])=[O:7].[H:8]>>[C:1]#[C:2][C:3]([C:4]#[C:5][H:6])[O:7][H:8],-3.94439394603
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[H:5],2.15582355229
[O:1]=[C:2]1[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12]>>[O:1]=[C:2][C:10](/[C:8](=[C:3]/[C:4]([H:5])([H:6])[H:7])[H:9])([H:11])[H:12],3.0093067881
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:12]([H:13])([H:14])[H:15],4.8368438429100005
[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13].[H:9],4.91751313908
[H:11].[O:1]=[C:2]([H:3])/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.16268374355
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8],8.82000812115
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1=[C:7]([H:8])[C:9]([H:10])([H:11])[O:12]1>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])=[C:9]([H:10])[H:11])=[O:12],-1.06480271
